US08431604B2
N-[(2-{[[(2,6-dimethoxybenzyl)amino](imino)methyl]amino}-1,3-thiazole-4-yl)methyl]benzamide
Reaction of 50 mg (0.16 mmol) N-[4-(aminomethyl)-1,3-thiazole-2-yl]-N′-(2,6-dimethoxybenzyl)guanidine hydrochloride, Example 154 free base, with 24.2 mg benzoylchloride in 5 ml THF with addition of 230 mg polymer-bound NMM (1.7 mmol/g; Argonaut) and chromatography of the crude product on silica gel dichloromethane/methanol 0-2%) yielded 20 mg; ESI-MS [M+H+]=426.15.

reactant | N-[4-(aminomethyl)-1,3-thiazole-2-yl]-N′-(2,6-dimethoxybenzyl)guanidine hydrochloride | 0.16 mmol, 50 mg | Cl.NCC=1N=C(SC1)NC(=N)NCC1=C(C=CC=C1OC)OC
reactant | benzoylchloride | 24.2 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NMM | 230 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[(2-{[[(2,6-dimethoxybenzyl)amino](imino)methyl]amino}-1,3-thiazole-4-yl)methyl]benzamide | COC1=C(CNC(=N)NC=2SC=C(N2)CNC(C2=CC=CC=C2)=O)C(=CC=C1)OC | C21H23N5O3S
